US07271193B2
2-Bromo-4-nitro-benzoic acid (Compound No. 151)
2-Bromo-4-nitro-benzonitrile (0.5 gm, 2.34 mmol) was hydrolysed using H2SO4 (2.2 ml) in 2.7 ml water at 80° C. for 8 hrs. After completion of reaction solution was poured over crushed ice, basified with sodium carbonate and extracted with ethyl acetate. Aqueous layer was separated, acidified with 1:1 HCl and extracted with ethyl acetate. Combined organic layer was then concentrated to obtained compound(51).

reactant | 2-Bromo-4-nitro-benzonitrile | 2.34 mmol, 0.5 gm | BrC1=C(C#N)C=CC(=C1)[N+](=O)[O-] | C7H3BrN2O2
reactant | H2SO4 | 2.2 ml | OS(=O)(=O)O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 2.7 ml | O | H2O
product | 2-Bromo-4-nitro-benzoic acid | BrC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4BrNO4
